US07915415B2
Added together 2-cyanophenylboronic acid pinacol ester (13.7 g, 60 mmol), 2-bromo-4,6-dimethylaniline (10.0 g, 50 mmol), tetrakis(triphenylphosphine)palladium(0) (2.3 g, 2.0 mmol) and potassium carbonate (18.6 g, 138.21 mol) to a 125 mL of a 95/5 mixture of toluene/methanol. The solvents were degassed and the reaction mixture heated to reflux for 48 hours. After cooling, the reaction mixture was vacuum filtered and the organics evaporated and crude product was purified using silica gel column chromatography treated with triethylamine and 1:9 ethyl acetate and methylene chloride mixture as the eluants. The pure product was collected and concentrated to give 3,5-dimethyl-6-phenanthridinamine (9.1 g, 82% Yield).

reactant | 2-cyanophenylboronic acid pinacol ester | 60 mmol, 13.7 g | C(#N)C1=C(C=CC=C1)B1OC(C)(C)C(C)(C)O1 | C13H16BNO2
reactant | 2-bromo-4,6-dimethylaniline | 50 mmol, 10.0 g | BrC1=C(N)C(=CC(=C1)C)C | C8H10BrN
reactant | potassium carbonate | 138.21 mol, 18.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | toluene methanol | C1(=CC=CC=C1)C.CO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 2.0 mmol, 2.3 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3,5-dimethyl-6-phenanthridinamine | 9.1 g, 82% Yield | CC=1C=CC=2C3=CC=CC=C3C(N(C2C1)C)N | C15H16N2
